US04910282
Preparation of 3-[4-(3-aminophenoxybenzoyl)phenoxy]benzoic acid
A mixture of m-aminophenol (0.64 g, 5.87 mmol), 3-[4-(4-fluorobenzoyl)phenoxy]benzoic acid (2.0 g, 5.95 mmol), and anhydrous potassium carbonate (4.0 g) was stirred in dry dimethylsulfoxide (20 ml) at 120° C. under nitrogen for 48 hours. The cooled reaction mixture was poured into water and carefully neutralized with conc. hydrochloric acid to precipitate 2.58 g of a white solid. The crude product was digested in hot toluene, and the toluene solution (after decanting from a large quantity of gum) was allowed to stand overnight at 0° C. The crystals thus obtained were recrystallized to give 0.35 g of product, m.p. 144°-150° C. dec. (14%).

reactant | m-aminophenol | 5.87 mmol, 0.64 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 3-[4-(4-fluorobenzoyl)phenoxy]benzoic acid | 5.95 mmol, 2.0 g | FC1=CC=C(C(=O)C2=CC=C(OC=3C=C(C(=O)O)C=CC3)C=C2)C=C1 | C20H13FO4
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-[4-(3-aminophenoxybenzoyl)phenoxy]benzoic acid | 0.35 g | NC=1C=C(OC2=C(C(=O)C3=CC=C(OC=4C=C(C(=O)O)C=CC4)C=C3)C=CC=C2)C=CC1 | C26H19NO5
